US05468898
Following the procedure of Example 55, N-benzyl-5-benzyloxy-3-formylindole is treated with acetonitrile triphenylphosphonium bromide to give N-benzyl-5-benzyloxy-3-(2-cyanovinyl)indole.

reactant | N-benzyl-5-benzyloxy-3-formylindole | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=O | C23H19NO2
reactant | acetonitrile triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1.C(C)#N
product | N-benzyl-5-benzyloxy-3-(2-cyanovinyl)indole | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC#N | C25H20N2O
